US04810713
1-[4-(5-Chloropentoxy)-3-methoxyphenyl]ethanone
A mixture of 59.7 g (0.36 mole) of acetovanillone, 100 g (0.539 mole) of 1-bromo-5-chloropentane and 138 g (1 mole) of anhydrous potassium carbonate in 1 liter of acetone was heated at reflux for 20 hr. The mixture was filtered and the filtrate was concentrated under reduced pressure to give an oil which crystallized in petroleum ether (30°-60° C.). The solid was collected by filtration, washed with petroleum ether and dried to yield 81.4 g (84%) of fluffy, white solid. The solid was recrystallized from isopropyl ether, m.p. 57°-58° C.

reactant | acetovanillone | 0.36 mole, 59.7 g | CC(=O)C1=CC(OC)=C(O)C=C1 | C9H10O3
reactant | 1-bromo-5-chloropentane | 0.539 mole, 100 g | BrCCCCCCl | C5H10BrCl
reactant | potassium carbonate | 1 mole, 138 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1 liter | CC(=O)C | C3H6O
product | 1-[4-(5-Chloropentoxy)-3-methoxyphenyl]ethanone | ClCCCCCOC1=C(C=C(C=C1)C(C)=O)OC | C14H19ClO3
